US04077965
7-Aminocephalosporanic acid (1.36 g.), 5-acetamidomethyl-1,3,4-thiadiazole-2-thiol(1.04 g.) and sodium bicarbonate (885 mg.) were dissolved in water (70 ml.), and the solution was stirred at 60° C for 5 hrs. After the reaction, the reaction mixture was adjusted to pH5, and then allowed to stand overnight in a refrigerator. The precipitating crystals were collected by filtration to give 7-amino-3-(5-acetamidomethyl-1,3,4-thiadiazol-2yl)thiomethyl-3-cephem-4-carboxylic acid (1.03 g.) m.p. 195°-197° C (dec.).

reactant | 7-Aminocephalosporanic acid | 1.36 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 5-acetamidomethyl-1,3,4-thiadiazole-2-thiol | 1.04 g | C(C)(=O)NCC1=NN=C(S1)S | C5H7N3OS2
reactant | sodium bicarbonate | 885 mg | C([O-])(O)=O.[Na+]
solvent | water | 70 ml | O | H2O
product | 7-amino-3-(5-acetamidomethyl-1,3,4-thiadiazol-2yl)thiomethyl-3-cephem-4-carboxylic acid | 1.03 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNC(C)=O)C(=O)O)C1=O | C13H15N5O4S3
